US04016159
5.35 g of 4-amidinophenylacetic acid (M.p. 295° to 297° C, decomposition) were suspended in 45 ml of anhydrous benzene. Two drops of dimethylformamide and 17.9 g of thionyl chloride were added and the whole was heated for 11/2 hours under reflux. After cooling, the solid product was filtered off with suction, washed with anhydrous benzene and dried under reduced pressure. 6.9 g of 4-amidino-phenylacetyl chloride-hydrochloride melting at 174° to 177° C (decomposition) were obtained.

reactant | 4-amidinophenylacetic acid | 5.35 g | C(N)(=N)C1=CC=C(C=C1)CC(=O)O | C9H10N2O2
reactant | thionyl chloride | 17.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
catalyst | dimethylformamide | Two drops | CN(C=O)C | C3H7NO
product | 4-amidino-phenylacetyl chloride-hydrochloride | 6.9 g | Cl.C(N)(=N)C1=CC=C(C=C1)CC(=O)Cl | InChI=1S/C9H9ClN2O.ClH/c10-8(13)5-6-1-3-7(4-2-6)9(11)12;/h1-4H,5H2,(H3,11,12);1H
